US07470710B2
Description 28: (RS)[1-(2,2,2-Trifluoroethanoyl)-piperidin-2-yl]acetic acid ethyl ester
(RS)-Piperidin-2-yl acetic acid ethyl ester (Rhodes et al, J. Am. Pharm. Assoc., 1956,45,746) (6.0 g) was dissolved in dry dichloromethane (60 ml) and cooled to −10° C. under an atmophere of argon. Triethylamine (5.0 ml), followed by trifluoroacetic anhydride (5.1 ml) was added to the stirred solution and stirring was continued at room temperature for 16 h. The reaction solution was then partitioned between dichloromethane and saturated sodium bicarbonate solution. The organic solution was dried (MgSO4) and the solvent removed in vacuo to yield the title compound as an oil (4.2 g).

reactant | (RS)-Piperidin-2-yl acetic acid ethyl ester | 6.0 g | C(C)OC(CC1NCCCC1)=O | C9H17NO2
reactant | Triethylamine | 5.0 ml | C(C)N(CC)CC | C6H15N
reactant | trifluoroacetic anhydride | 5.1 ml | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
solvent | dichloromethane | 60 ml | ClCCl | CH2Cl2
product | (RS)[1-(2,2,2-Trifluoroethanoyl)-piperidin-2-yl]acetic acid ethyl ester | 4.2 g | C(C)OC(CC1N(CCCC1)C(C(F)(F)F)=O)=O | C11H16F3NO3
